US07683176B2
4-Chloro-N-{5-chloro-2-[4-(2-methyl-2H-pyrazol-3-yl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide
The title compound was prepared according to general Method B. using 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.234 mmol), trimethylorthoformate (80 mg, 0.75 mmol), acetonitrile (2 mL), 2-Methyl-2H-pyrazol-3-ylamine (48 mg, 0.50 mmol) and acetic acid (1.0 mL). MS (ES) [M+H]+ expected 518.0, found 518.0.

reactant | 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide | 0.234 mmol, 100 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN)C(F)(F)F | C13H9Cl2F3N4O3S
reactant | trimethylorthoformate | 0.75 mmol, 80 mg | COC(OC)OC | C4H10O3
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | 2-Methyl-2H-pyrazol-3-ylamine | 0.50 mmol, 48 mg | CN1N=CC=C1N | C4H7N3
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 4-Chloro-N-{5-chloro-2-[4-(2-methyl-2H-pyrazol-3-yl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C=1N(N=CC1)C)C(F)(F)F | C18H12Cl2F3N7O2S
